US07030135B2
N-Acetyl4-piperidone (7.05 g, 0.05 mol) in acetic acid (35 mL) was treated dropwise with bromine (8.0 g, 0.05 mol) in acetic acid (10 mL) at room temperature. After 4 h, the formed precipitate was collected on a filter, washed with diethyl ether and air-dried. This crude intermediate (3.01 g) was dissolved in ethanol (20 mL) and after the addition of thiourea (0.76 g, 10.0 mmol)the reaction mixture was refixed for 4 h. The solvent was removed in vacuo. Water (20 mL) was added and the pH was adjusted to 9. Extraction with DCM, drying (sodium sulfate) and removal of the organic phase gave 1.1 g of a crude product. Modification by flash chromatography on silica gel gave 202 mg (10%) of 5-acetyl4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylamine. This compound was sulfonylated with 3-chloro-2-methylbenzene sulfonyl chloride (234 mg, 1.02 mmol) in pyridine according to METHOD A. After workup, the final product was crystallised from methanol to afford 75 mg (%) of white crystals: 1H NMR (DMSO-d6, 70° C.) δ 2.05 (s, 3H), 2.66 (s, 3H), 3.09 (m, 2H), 3.69 (m, 2H), 4.38 (m 2H), 7.37 (t, 1H), 7.64 (d, 1H), 7.91 (d, 1H), 12.53 (br s, NH).

reactant | N-Acetyl4-piperidone | 0.05 mol, 7.05 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | bromine | 0.05 mol, 8.0 g | BrBr | Br2
reactant | thiourea | 10.0 mmol, 0.76 g | NC(=S)N | CH4N2S
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-acetyl4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylamine | 202 mg, 10% | C(C)(=O)N1CC2=C(CC1)N=C(S2)N | C8H11N3OS
